### PR TITLE
[Merged by Bors] - style: fix a few instances of 'leading by'

### PR DESCRIPTION
**Pull request by grunweg**
These should have been caught by lint-style.py, but were not due to a bug in the script. Some of these would be fixed by the auto-formatter; others might not.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean [hunk 1]
```diff
@@ -644,11 +644,11 @@ theorem coe_compRingHom (q : R[X]) : (compRingHom q : R[X] → R[X]) = fun p =>
 theorem coe_compRingHom_apply (p q : R[X]) : (compRingHom q : R[X] → R[X]) p = comp p q :=
   rfl
 
-theorem root_mul_left_of_isRoot (p : R[X]) {q : R[X]} : IsRoot q a → IsRoot (p * q) a := fun H => by
-  rw [IsRoot, eval_mul, IsRoot.def.1 H, mul_zero]
+theorem root_mul_left_of_isRoot (p : R[X]) {q : R[X]} (hq : IsRoot q a) : IsRoot (p * q) a := by
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Eval/Defs.lean]: splice-bot

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Review by joneugster — APPROVED** [review]
~~maintainer merge~~ I'm too slow :D
